US08835449B2
(Z)-Methyl 3-(2,4-dimethoxyphenyl)-3-((2-ethoxy-2-oxoethyl)amino)acrylate
To a solution of methyl 3-(2,4-dimethoxyphenyl)-3-oxopropanoate (5.0 g, 21 mmol) in EtOH (30 mL) was added glycine methyl ester hydrochloride (10.5 g, 83.9 mmol) followed by acetic acid (1.20 mL, 21 mmol) and triethylamine (8.5 g, 83.9 mmol) and the reaction mixture was heated at 100° C. for 18 hours. After cooling to room temperature, the residue was partitioned between EtOAc and saturated aqueous ammonium chloride. The organic layer was washed with brine, dried over sodium sulfate and concentrated in vacuo. The crude product was dissolved in CH2Cl2 (10 mL) filtered through a plug of silica gel, eluting with 15-35% EtOAc in heptanes and dried under vacuum to give the title compound (4.7 g, 69%) as a yellow solid. This material was used in the next step without further purification.

reactant | methyl 3-(2,4-dimethoxyphenyl)-3-oxopropanoate | 21 mmol, 5.0 g | COC1=C(C=CC(=C1)OC)C(CC(=O)OC)=O | C12H14O5
reactant | glycine methyl ester hydrochloride | 83.9 mmol, 10.5 g | Cl.COC(CN)=O
reactant | acetic acid | 21 mmol, 1.20 mL | C(C)(=O)O | C2H4O2
reactant | triethylamine | 83.9 mmol, 8.5 g | C(C)N(CC)CC | C6H15N
solvent | EtOH | 30 mL | CCO | C2H6O
product | (Z)-Methyl 3-(2,4-dimethoxyphenyl)-3-((2-ethoxy-2-oxoethyl)amino)acrylate | 4.7 g, 69% | COC1=C(C=CC(=C1)OC)/C(=C/C(=O)OC)/NCC(=O)OCC | C16H21NO6
